US07135502B1
Using an analogous procedure to that described for Example 16, N-[(5S)-3-(4-chloromethylphenylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide was reacted with morpholine to give N-[(5S)-3-(4-{morpholinomethyl}phenylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide.

reactant | N-[(5S)-3-(4-chloromethylphenylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | ClCC1=CC=C(C=C1)C(=O)OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C28H28ClNO6
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[(5S)-3-(4-{morpholinomethyl}phenylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 86% | O1CCN(CC1)CC1=CC=C(C=C1)C(=O)OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C32H36N2O7
